US06762315B1
Preparation of 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylic acid
20.1 g of 4′-iodobiphenyl-4-carboxylic acid, 13.1 g of sodium carbonate and 21.4 g of glycol ester of 4-n-pentoxyphenylboronic acid are introduced into 260 g of dimethyl sulfoxide (DMSO) and, after addition of 160 mg of PdCl2(PPh3)2, heated at 100-110° C. for 2 hours. The solid is filtered off at 40° C., washed with dimethyl sulfoxide and suspended in 100 ml of water. It is then heated to 80° C., and 47 g of 37% strength sulfuric acid are added dropwise over the course of 1 hour. The mixture is stirred at 80° C. for a further 30 minutes, cooled at 40° C. and filtered. Drying and crystallization from dimethylacetamide results in 18 g (81%) of 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylic acid with a purity of >99%.

reactant | 4′-iodobiphenyl-4-carboxylic acid | 20.1 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9IO2
reactant | sodium carbonate | 13.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-n-pentoxyphenylboronic acid | C(CCCC)OC1=CC=C(C=C1)B(O)O | C11H17BO3
catalyst | PdCl2(PPh3)2 | 160 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dimethyl sulfoxide | 260 g | CS(=O)C | C2H6OS
product | 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylic acid | C(CCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H24O3
